US07504411B2
A solution of 4-(4-pyrrolidin-1-yl-phenyl)-piperidine (215 mg, 0.933 mmol) and triethylamine (391 mg, 3.86 mmol), 2-chloro-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one (187 mg, 0.844 mmol) in tetrahydrofuran (10 mL) was refluxed for 5 hr. The resulting solution was diluted with tetrahydrofuran and filtrated. After removal of the solvents under reduced pressure and the purification of the resulting residue by CHEM ELUT CE1010 (manufactured by VARIAN) eluting dichloromethane/ethanol (15/1, v/v) and wash with ethyl acetate afforded 3-methyl-6-pyridin-4-yl-2-(4-(4-pyrrolidin-1-yl-phenyl)-piperidin-1-yl)-3H-pyrimidin-4-one (284 mg, 81%) as a solid.

reactant | 4-(4-pyrrolidin-1-yl-phenyl)-piperidine | 0.933 mmol, 215 mg | N1(CCCC1)C1=CC=C(C=C1)C1CCNCC1 | C15H22N2
reactant | triethylamine | 3.86 mmol, 391 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one | 0.844 mmol, 187 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-methyl-6-pyridin-4-yl-2-(4-(4-pyrrolidin-1-yl-phenyl)-piperidin-1-yl)-3H-pyrimidin-4-one | 284 mg, 81% | CN1C(=NC(=CC1=O)C1=CC=NC=C1)N1CCC(CC1)C1=CC=C(C=C1)N1CCCC1 | C25H29N5O
